US06903215B2
A solution of 4.5 mL (9 mmol, 1.2 eq.) of oxalyl chloride (2.0 M solution in dichloromethane) was diluted with 15 mL of dichloromethane. To this solution was added a solution of 1.2 mL (17.5 mmol, 2.4 eq.) of DMSO in 3 mL of dichloromethane at −60° C. and the mixture was stirred for 10 minutes at this temperature. To this mixture was added a solution of 1 g (7.3 mmol) of 4-pyridinepropanol in 7 mL of dichloromethane at −60° C. The resulting mixture was stirred at −60° C. for 15 minutes, then 5.0 mL (36.5 mmol, 5.0 eq.) of triethylamine was added at this temperature. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature and was quenched with water. The organic layer was separated and the aqueous layer was extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography providing 3-pyridin-2-ylpropionaldehyde as a brown oil. Yield: 769 mg (78%).

reactant | oxalyl chloride | 9 mmol, 2.0 M, 4.5 mL, 1.2 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 17.5 mmol, 1.2 mL, 2.4 eq. | CS(=O)C | C2H6OS
reactant | 4-pyridinepropanol | 7.3 mmol, 1 g | N1=CC=C(C=C1)CCCO | C8H11NO
reactant | triethylamine | 36.5 mmol, 5.0 mL, 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-pyridin-2-ylpropionaldehyde | N1=C(C=CC=C1)CCC=O | C8H9NO
